US05766610
Preparation of 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyloxy)benzaldehyde
In a manner similar to Example 1(a) above, by the reaction of 5.3 g (15 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthol with 3.1 g (16.5 mmol) of 4-bromobenzaldehyde, 2.4 g of the expected aldehyde of melting point 75°-6° C. were obtained after purification by chromatography on a silica column eluted with a mixture of dichloromethane and hexane (50/50).

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthol | 15 mmol, 5.3 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)O)C | C14H20O
reactant | 4-bromobenzaldehyde | 16.5 mmol, 3.1 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyloxy)benzaldehyde | CC1(C=2C=CC(=CC2C(CC1)(C)C)OC1=CC=C(C=O)C=C1)C | C21H24O2
